US07700641B2
D. Synthesis of methyl[3-(4-chloro-2-hydroxyphenyl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with methyl[3-(4-chloro-2-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained: MS (ES+) m/z 362.5 (M+1) 364.5 (M+1).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | methyl[3-(4-chloro-2-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | COC(CN1C(C(C2=CC=CC=C12)C1=C(C=C(C=C1)Cl)O)=O)=O | C17H14ClNO4
product | methyl[3-(4-chloro-2-hydroxyphenyl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | COC(CN1C(C(C2=CC=CC=C12)(CO)C1=C(C=C(C=C1)Cl)O)=O)=O | C18H16ClNO5
